data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4825,5507,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,17.128849806279327,-28.322251764531213
4057,4648,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[O-:22]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[O:22][N:20]([CH3:21])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,23.28240985347592,3.4068902671065766
2884,3204,[CH3:19][NH:20][C:21](=[O:22])[C:23](=[NH+:24][C-:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[NH:24][C:23]2([C:21]([NH:20][CH3:19])=[O:22])[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,water,298.15,17.80214735812679,-33.32866085443622
3267,3692,[CH3:9][c-:10]1[o+:11][c:12]([C:13]#[N:14])[o:15][c:16]1=[O:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:10]2([CH3:9])[O:11][C:12]1([C:13]#[N:14])[O:15][C:16]2=[O:17],water,298.15,8.202403819505403,-33.93198139902685
948,1029,[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH:20]#[N+:21][CH-:22][C:23]([CH3:24])=[O:25]>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]3[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[CH:22]([C:23]([CH3:24])=[O:25])[N:21]=[CH:20]2,water,298.15,11.229730053668805,-60.82285603272556
2141,2375,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2.[N:17]#[C:18][N-:19][NH+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH:13]=[CH:14][CH:15]1[O:16]3)[N:19]([C:18]#[N:17])[NH:20][C:21]2([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,26.623551651347142,1.9824689951019672
3007,3359,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10]([C:11]#[N:12])=[O+:13][NH-:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[NH:14][O:13][C:10]2([CH3:9])[C:11]#[N:12],water,298.15,5.228843134185149,-46.12470388900108
2029,2252,[CH3:18][NH:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:26]1([C:27]#[N:28])[C:24](=[O:25])[O:23][C:22]2([C:20]([NH:19][CH3:18])=[O:21])[O:29]1,water,298.15,12.75213562956958,-36.71415478260354
1498,1653,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:1]#[C:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[N:1]#[C:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:19]([CH3:20])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,30.689337650671053,-7.931629575183708
2374,2636,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][CH-:21][O+:22]=[C:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:21]([CH3:20])[O:22][C:23]2([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,16.408064583484062,-45.53051811452954
3651,4171,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[c:10]1[o:11][c:12](=[O:13])[c-:14]([C:15]([CH3:16])=[O:17])[n+:18]1[CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:14]2([C:15]([CH3:16])=[O:17])[C:12](=[O:13])[O:11][C:10]1([C:8]([CH3:7])=[O:9])[N:18]2[CH3:19],water,298.15,32.977334150214375,12.065530435204202
